US05047538
3-Ethenyl-2,4,5-trifluoro-β-oxo-benzenepropanoic acid, ethyl ester
To a cooled solution (0 to 5° C.) of 3-ethenyl-2,4,5-trifluorobenzoic acid (6.0 g, 0.03 mol) in THF (100 mL) was added carbonyl diimidazole (4.9 g, 0.030 mol). The mixture was then stirred at room temperature for 1 hour, heated with magnesium bis(ethyl malonate) (8.7 g, 0.03 mol) and refluxed for 3 hours. The reaction was allowed to cool, treated with 3N HCl (30 mL) and stirred for 1.5 hours at room temperature. The reaction was partitioned between ether and water. The organic layer was dried and concentrated to provide 7.65 g (93%) of the desired product. An analytical sample was obtained by preparative TLC (SiO2, 9:1 hexane/EtOAC)

reactant | 3-ethenyl-2,4,5-trifluorobenzoic acid | 0.03 mol, 6.0 g | C(=C)C=1C(=C(C(=O)O)C=C(C1F)F)F | C9H5F3O2
reactant | carbonyl diimidazole | 0.030 mol, 4.9 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | magnesium bis(ethyl malonate) | 0.03 mol, 8.7 g | C(C)C(C(=O)[O-])C(=O)[O-].C(C)C(C(=O)[O-])C(=O)[O-].[Mg+2].[Mg+2]
reactant | HCl | 3N, 30 mL | Cl | ClH
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 3-Ethenyl-2,4,5-trifluoro-β-oxo-benzenepropanoic acid, ethyl ester | 7.65 g, 93% | C(=C)C=1C(=C(C=C(C1F)F)C(CC(=O)OCC)=O)F | C13H11F3O3
